US03971651
Hydroxybenzaldehyde is mixed with methoxyphenylacetic acid and the resulting mixture is reacted with acetic anhydride and trimethylamine, to obtain α-methoxyphenyl-hydroxy-cinnamic acid. When this compound is acetylated by heating in a nitrogen gas atmosphere in the presence of quinoline and copper chromite, acetoxy-methoxy-stilbene is formed. Then, this stilbene derivative is catalytically reduced and hydrolyzed with an alkali to obtain 3-hydroxy-5 -methoxybibenzyl.

reactant | Hydroxybenzaldehyde | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | methoxyphenylacetic acid | COC(C(=O)O)C1=CC=CC=C1 | C9H10O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | trimethylamine | CN(C)C | C3H9N
product | α-methoxyphenyl-hydroxy-cinnamic acid | COC(C(=O)O)=C(C1=C(C=CC=C1)C1=CC=CC=C1)O | C16H14O4
